US07700641B2
C. Synthesis of methyl 3-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with methyl 3-{[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate, the title compound was obtained (98%): MS (ES+) m/z 418.2 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | methyl 3-{[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC1(C(N(C2=CC=CC=C12)CC=1C=C(C(=O)OC)C=CC1)=O)C1=CC2=C(OCO2)C=C1O | C24H19NO7
product | methyl 3-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CC=1C=C(C(=O)OC)C=CC1)=O | C24H19NO6
